US09303023B2
To a solution of 5-(m-tolyl)oxazole-4-carboxylic acid (5.34 g, 26.28 mmol) in DCM (135 mL), TBTU (12.66 g, 39.42 mmol) and DIPEA (13.50 mL, 78.84 mmol) was added. After stirring for 30 min at rt, 1-(3,3-dimethoxypropyl)-1H-pyrazol-4-amine (4.50 g, 26.29 mmol) dissolved in DCM (15 mL) and DMF (2 mL) was added to the reaction mixture and stirred at rt for 1 h, then the reaction mixture was diluted with DCM and water, the org. layer was separated and the aq. layer extracted with DCM (1×). The combined org. layers were washed with brine, dried (MgSO4), filtered and the solvent was removed under reduced pressure. Purification by FC (EtOAc/hept 7:3) yielded N-(1-(2,2-dimethoxyethyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide as a pale yellow solid. LC-MS conditions A: tR=0.82 min, [M+H]+=357.06.

reactant | 5-(m-tolyl)oxazole-4-carboxylic acid | 26.28 mmol, 5.34 g | C1(=CC(=CC=C1)C1=C(N=CO1)C(=O)O)C | C11H9NO3
reactant | TBTU | 39.42 mmol, 12.66 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 78.84 mmol, 13.50 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(3,3-dimethoxypropyl)-1H-pyrazol-4-amine | 26.29 mmol, 4.50 g | COC(CCN1N=CC(=C1)N)OC | C8H15N3O2
solvent | DCM | 135 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-(1-(2,2-dimethoxyethyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide | COC(CN1N=CC(=C1)NC(=O)C=1N=COC1C=1C=C(C=CC1)C)OC | C18H20N4O4
